BJT MS
vcc vcc 0 15
vin in 0 AC 1
c1 in b 100n

rb1 vcc b 67k
rb2 b 0 33k

q1 c b e bc107

.model BC107 NPN(Is=40.72f  Bf=407 Vaf=21.03 Ikf=1 Ise=40.72f Ne=1.305 Ikr=3.726
 + Isc=594.8p Nc=2.033 Rc=1.393 Cje=12.5p Vje=.5391 Mje=.4869 Tf=441.1p Cjc=6p
 + Mjc=.3821 Tr=114n Xtb=1.5)

 rc c vcc 1.5k
 re e 0 750
 ce e 0 1000u

 c2 c out 100n
 rload out 0 1g

* Po prostu ac, analiza czestotliwosciowa
* Istotny znak - warto wyplotowaæ fazê!
* Lub pamiêtaæ/zauwa¿yc, ¿e wzmacniacz jest odwracaj¹cy (OC)
 .ac dec 100 10 10G
 .probe